US06297258B1
4-Diallylamino-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
A solution of 0.24 g (0.5 mmol) of 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide in 1 ml of N,N-dimethylformamide and 4 ml of tetrahydrofuran was stirred with 0.49 ml (4 mmol) of diallylamine for 3 hr. The reaction was quenched with 10 ml of saturated sodium bicarbonate and 10 ml of ethyl acetate. The insoluble precipitate was collected and washed with water to give 23.7 mg of the title compound (free base); mass spectrum (electrospray, m/e): M+H 506.0. The ethyl acetate layer was washed with water. After the solvent was removed, the crude product was purified by preparative HPLC (C18 column, Gradient from 2% acetonitrile containing 0.05% trifluoroacetic acid to 100% acetonitrile containing 0.05% trifluoroacetic acid in 12 min) to yield 97.9 mg of the product as the bis-trifluoroacetate salt; mass spectrum (electrospray, m/e): M+H 506.0.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.5 mmol, 0.24 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | diallylamine | 4 mmol, 0.49 ml | C(C=C)NCC=C | C6H11N
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-Diallylamino-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 23.7 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN(CC=C)CC=C)=O)OC)C#N | C27H25ClFN5O2
